US07135480B2
3-Cyano-1-[4-(4-methyl-piperazin-1-yl)-benzoyl]-pyrrolo[1,2-a]quinoline
The title compound was prepared as described for the Example 21, using 3-cyano (4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline (31 mg, 0.0986 mmol) and 4-methyl piperazine (212 mg, 0.212 mmol), and yielded 12.1 mg (68%). 1H NMR (CDCl3): 8.01 (m, 3H), 7.82 (dd, J=7.8, 1.8 Hz, 1H), 7.66 (s, 2H), 7.53 (m, 2H), 7.35 (s, 1H), 6.98 (m 2H), 3.70 (t, J=5.1 Hz, 4H), 3.00 (m, 4H), 2.66 (s, 3H).

reactant | 3-cyano (4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline | 0.0986 mmol, 31 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)F)=O | C20H11FN2O
reactant | 4-methyl piperazine | 0.212 mmol, 212 mg | CN1CCNCC1 | C5H12N2
product | 3-Cyano-1-[4-(4-methyl-piperazin-1-yl)-benzoyl]-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2CCN(CC2)C)=O | C25H22N4O
